US07253205B2
(RS)-N-(4-Oxo-1-phenylcyclohexyl)-α-methyl-α-(2-propenyl)-3,5-bis(trifluoromethyl)benzeneacetamide
Prepared from (RS)-α-methyl-α-(2-propenyl)-3,5-bis(trifluoromethyl)benzeneacetic acid (Description 10) and 4-oxo-1-phenylcyclohexylamine hydrochloride (Description 3) according to the method of Description 11. 1H NMR (360 MHz, CDCl3) δ 7.81 (1H, s), 7.71 (2H, s), 7.35-7.27 (5H, m), 5.58 (1H, br s), 5.57-5.45 (1H, m), 5.09-5.03 (2H, m), 2.81-2.73 (2H, m), 2.66-2.60 (2H, m), 2.48-2.30 (6H, m), and 1.63 (3H, s).

reactant | (RS)-α-methyl-α-(2-propenyl)-3,5-bis(trifluoromethyl)benzeneacetic acid | CC(C(=O)O)(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC=C | C14H12F6O2
reactant | 4-oxo-1-phenylcyclohexylamine hydrochloride | Cl.O=C1CCC(CC1)(C1=CC=CC=C1)N
product | (RS)-N-(4-Oxo-1-phenylcyclohexyl)-α-methyl-α-(2-propenyl)-3,5-bis(trifluoromethyl)benzeneacetamide | O=C1CCC(CC1)(C1=CC=CC=C1)NC(C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)(CC=C)C)=O | C26H25F6NO2
